US06015829
The same reaction and treatment as in Example 5 using ethyl 1-(3cyano-4-hydroxyphenyl)pyrazole-4-carboxylate and 1-bromo-1,1-dimethylethane gives ethyl 1-(4-tert-butoxy-3-cyanophenyl)pyrazole-4-carboxylate.

reactant | ethyl 1-(3cyano-4-hydroxyphenyl)pyrazole-4-carboxylate | C(#N)C=1C=C(C=CC1O)N1N=CC(=C1)C(=O)OCC | C13H11N3O3
reactant | 1-bromo-1,1-dimethylethane | BrC(C)(C)C | C4H9Br
product | ethyl 1-(4-tert-butoxy-3-cyanophenyl)pyrazole-4-carboxylate | C(C)(C)(C)OC1=C(C=C(C=C1)N1N=CC(=C1)C(=O)OCC)C#N | C17H19N3O3
